US05344845
2 ml of piperidine was added to a solution of 5.09 g of 4-acetoxy-3-methoxycinnamoyl chloride in 100 ml of pyridine. The solution was reacted for hours at room temperature. After reaction, 200 ml of 2N hydrochloric acid was added to the reaction solution. The solution was extracted three times with 100 ml of ethyl acetate. The organic layer obtained was washed three times with 2N hydrochloric acid, twice with an aqueous sodium hydrogencarbonate solution and twice with an aqueous sodium chloride solution, and then was dried over magnesium sulfate. Thereafter, the solvent was removed in vacuo, and the product obtained was recrystallized from methylene chloride/hexane, yielding 1.88 g of 1-(4-acetoxy-3-methoxycinnamoyl)piperidine (a compound of the present invention) as pale yellowish white crystal, which had the following physiochemical properties:

reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
reactant | 4-acetoxy-3-methoxycinnamoyl chloride | 5.09 g | C(C)(=O)OC1=C(C=C(C=CC(=O)Cl)C=C1)OC | C12H11ClO4
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-acetoxy-3-methoxycinnamoyl)piperidine | 1.88 g | C(C)(=O)OC1=C(C=C(C=CC(=O)N2CCCCC2)C=C1)OC | C17H21NO4
